US05495023
A mixture of N-(4-ethyl-2,4-hexadien-1-yl)phthalimide (3.0 g), hydrazine monohydrate (0.88 g), and ethanol (30 ml) was refluxed for 40 minutes under nitrogen atmosphere. After cooling, the precipitate was filtered and washed with ethanol. Evaporation of the filtrate gave a crystalline residue which was dissolved in 1N sodium hydroxide solution and extracted with dichloromethane. The organic extract was washed with water and brine, dried over anhydrous sodium sulfate, and evaporated to give 4-ethyl-2,4-hexadien-1-ylamine as an oil. To a mixture of crude 4-ethyl-2,4-hexadien-1-ylamine, triethylamine (1.79 g), and dichloromethane (30 ml) at 0° C. was added dropwise dimethylsulfamoyl chloride (2.03 g) during 10 minutes. After 30 minutes, triethylamine (0.6 g) and dimethylsulfamoyl chloride (0.85 g) were added to the reaction mixture. After 1 hour at 0° C., the reaction mixture was washed with water and aqueous sodium hydrogen carbonate solution, dried over anhydrous magnesium sulfate, and evaporated in vacuo. The residue was chromatographed on silica gel (dichloromethane-hexane, 7:3) to give N,N-dimethyl-N'-(4-ethyl-2,4-hexadien-1-yl)sulfamide (924 mg) as an oil.

reactant | 4-ethyl-2,4-hexadien-1-ylamine | C(C)C(C=CCN)=CC | C8H15N
reactant | dichloromethane | 30 ml | ClCCl | CH2Cl2
reactant | dimethylsulfamoyl chloride | 2.03 g | CN(S(=O)(=O)Cl)C | C2H6ClNO2S
reactant | dimethylsulfamoyl chloride | 0.85 g | CN(S(=O)(=O)Cl)C | C2H6ClNO2S
solvent | triethylamine | 0.6 g | C(C)N(CC)CC | C6H15N
solvent | triethylamine | 1.79 g | C(C)N(CC)CC | C6H15N
product | N,N-dimethyl-N'-(4-ethyl-2,4-hexadien-1-yl)sulfamide | 924 mg | CN(S(=O)(=O)NCC=CC(=CC)CC)C | C10H20N2O2S
